Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],2.56742560281
[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.66218752121
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],2.6683849967400004
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1],2.73198344076
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12].[H:13],6.66916746585
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.2975135722900015
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11])[C:3][H:4],2.87041678741
[H:1][C:2]#[C:3][C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11],-1.95080168035
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-5.14586567977
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-7.12573903
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1]([H:4])[C:5]([H:6])=[C:7][H:8].[C:2]#[C:3],7.46431347097
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],3.67401622243
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.165499262830002
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][C:13]([H:14])([H:15])[H:16],1.8611546826
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.57521998994
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10],2.52484841695
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1],1.6842443908700002
[C:2]([H:3])=[O:9].[O:1]([C:4]#[C:5][C:6]([H:7])[H:8])[H:10]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.89859197752
[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-0.8777022115700001
[C:4](\[O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-1.2184750860100002
[O:1]=[C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],3.0288769275700003
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1],4.940835068319999
[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.89318870876
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1],8.092999085739999
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1],7.438860761880001
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:8][H:9].[H:7]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9],-4.26088116523
[C:6]#[C:7][H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][H:8],-7.418677887819999
[C:1]#[C:2][C:3]([O:4][O:5])=[C:7]([H:8])[H:9].[H:6]>>[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7]([H:8])[H:9],-3.98732883185
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],-4.9239764571
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.31538168761
